US07585875B2
621 mg (2.4 mmol) of 2-chloro-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one was reacted with 283 mg (4.8 mmol) cyclopropylamine in the presence of 20 mg of NaI in 6 ml of MeOH. The crude product obtained after workup was acidified with 2N HCl-ether to furnish 405 mg of 2-(cyclopropylamino)-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one hydrochloride. Compound 1045.

reactant | 2-chloro-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one | 2.4 mmol, 621 mg | ClC(C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C | C13H15ClN2O
reactant | cyclopropylamine | 4.8 mmol, 283 mg | C1(CC1)N | C3H7N
reactant | NaI | 20 mg | [Na+].[I-]
solvent | MeOH | 6 ml | CO | CH4O
product | 2-(cyclopropylamino)-1-(2-isopropylpyrazolo[1,5-a]pyridin-3-yl)propan-1-one hydrochloride | 405 mg | Cl.C1(CC1)NC(C(=O)C=1C(=NN2C1C=CC=C2)C(C)C)C | InChI=1S/C16H21N3O.ClH/c1-10(2)15-14(13-6-4-5-9-19(13)18-15)16(20)11(3)17-12-7-8-12;/h4-6,9-12,17H,7-8H2,1-3H3;1H
